* C:\Users\Aspire\Desktop\Mixer.asc
Q2 N002 N005 N006 0 Qmmbt3904lt1g
R4 N006 N007 100
R5 N001 N005 100k
R6 N005 0 50k
V2 N001 0 10
V1 N004 0 SINE(0 100m 30Meg)
C2 N006 0 100n
V3 N007 0 SINE(0 500m 20k)
C3 N003 N002 10p
R2 N003 0 50
C1 N005 N004 100n
R1 N001 N002 330
.model NPN NPN
.model PNP PNP
.lib C:\Users\Aspire\Documents\LTspiceXVII\lib\cmp\standard.bjt
.MODEL Qmmbt3904lt1g npn
+IS=2.04959e-14 BF=363.202 NF=1.04474 VAF=10
+IKF=0.0238161 ISE=4.06917e-14 NE=1.46344 BR=1.88131
+NR=1.02127 VAR=87.0198 IKR=0.238161 ISC=4.06917e-14
+NC=3.87411 RB=10.62 IRB=24.2417 RBM=10.62
+RE=0.0189075 RC=0.833881 XTB=0.794336 XTI=1
+EG=1.206 CJE=5.01193e-12 VJE=0.4 MJE=0.308747
+TF=4.90228e-10 XTF=9.95281 VTF=0.230247 ITF=0.212393
+CJC=3.75788e-12 VJC=0.4 MJC=0.236094 XCJC=1
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.tran 0 200u 10u
.backanno
.end
